US05338740
F. 5-(2-Butyl-imidazo[4,5-b]pyridin-3-yl)-naphthalen-2-ol
A solution of 3-(benzyloxy-naphthalen-1-yl)-2-butyl-3H-imidazo[4,5-b]-pyridine (1500 g) in EtOH (75 mL) was added to a mixture of Pd/C (3.56 g) in EtOH (50 mL). The mixture was hydrogenated on a paar shaker at 50 psi for 72 hours. The reaction mixture was filtered through celite and concentrated in vacuo to give 1.13 grams of an amorphous solid. 1H NMR (250 MHz, CDCl3): d 8.48 (d, 1 H), 8.24 (d, 1 H), 7.52 (m), 7.37 (dd, 1 H), 7.26 (d, 2 H), 6.68 (dd, 2 H), 6.60 (s, 1 H), 2.67 (t, 2 H), 170 (m, 2 H), 1.23 (m, 2 H), 0.78 (t, 3 H).

reactant | 3-(benzyloxy-naphthalen-1-yl)-2-butyl-3H-imidazo[4,5-b]-pyridine | 1500 g | C(C1=CC=CC=C1)OC1=C(C2=CC=CC=C2C=C1)N1C(=NC=2C1=NC=CC2)CCCC | C27H25N3O
reactant | EtOH | 75 mL | CCO | C2H6O
reactant | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 3.56 g | [Pd] | Pd
product | 5-(2-Butyl-imidazo[4,5-b]pyridin-3-yl)-naphthalen-2-ol | 1.13 grams | C(CCC)C1=NC=2C(=NC=CC2)N1C1=C2C=CC(=CC2=CC=C1)O | C20H19N3O
